US05616599
68(a) Ethyl 2-ethyl-4-(1-hydroxy-1-methylethyl)-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carboxylate
0.52 g of potassium t-butoxide was added to a solution of 1.00 g of ethyl 2-ethyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate (prepared as described in Preparation 37) in 26 ml of N,N-dimethylacetamide, and the resulting mixture was stirred at room temperature for 10 minutes. A solution of 2.71 g of 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide in 35 ml of N,N-dimethylacetamide was then added dropwise to the resulting solution, after which the reaction mixture was stirred at 50° C. for 4 hours. At the end of this time, the reaction mixture was worked up in a similar manner to that described in Example 18(a), to give 2.01 g of the title compound as crystals, melting at 150°-152° C.

reactant | potassium t-butoxide | 0.52 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-ethyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate | 1.00 g | C(C)C=1NC(=C(N1)C(C)(C)O)C(=O)OCC | C11H18N2O3
reactant | 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide | 2.71 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
solvent | N,N-dimethylacetamide | 26 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 35 ml | CN(C(C)=O)C | C4H9NO
product | Ethyl 2-ethyl-4-(1-hydroxy-1-methylethyl)-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carboxylate | 2.01 g | C(C)C=1N(C(=C(N1)C(C)(C)O)C(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H42N6O3
